US06537943B1
Synthesis of (1′H, 1′H, 2′H, 2′H-perfluorooctylcyclopentadienyl)(pentamethylcyclopentadienyl)zirconium dichloride
A solution of 1.39 g of 1′H, 1′H, 2′H, 2′H-perfluorooctylcyclopentadiene from Example 5 in 50 ml of tetrahydrofuran is admixed at −78° C. with 2.1 ml of 1.65 M butyllithium solution and then admixed with a cooled suspension of 1.11 g of pentamethylcyclopentadienylzirconium trichloride in 30 ml of tetrahydrofuran. The mixture is allowed to warm to room temperature and the solvent is removed under reduced pressure. The product is isolated by means of extraction with methylene chloride and pentane.

reactant | butyllithium | 1.65 M, 2.1 ml | C(CCC)[Li]
reactant | pentamethylcyclopentadienylzirconium trichloride | 1.11 g | [Cl-].[Cl-].[Cl-].C[Zr](C1C=CC=C1)(C)(C)(C)C
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (pentamethylcyclopentadienyl)zirconium dichloride | [Cl-].[Cl-].CC1=C(C(=C(C1(C)[Zr+2])C)C)C | InChI=1S/C10H15.2ClH.Zr/c1-6-7(2)9(4)10(5)8(6)3;;;/h1-5H3;2*1H;/q;;;+2/p-2
